US07709514B2
5-heptanoylbenzofuran-2(3H-one (33)
To a solution of methyl 2-hydroxyphenylacetic acid methyl ester (1000 mg, 6.02 mmol) in nitrobenzene (10 ml) was added heptanoyl chloride (900 mg, 6.02 mmol), followed by aluminium chloride (1.6 g, 12.0 mmol, 2 equiv). The solution was heated to 60 C for 18 h, then cooled on ice before quenching with aqueous hydrochloric acid (1 M, 50 ml). The mixture was extracted with dichloromethane. (3×50 ml) and concentrated. Chromatography on silica gel using ethyl acetate/petroleum spirits (20:80) as eluant gave a semi-solid yellow residue. Recrystallization from dichloromethane/petroleum spirits at −15 C gave the title compound as a pale yellow solid (129 mg). Mp 64-67° C.;

reactant | methyl 2-hydroxyphenylacetic acid methyl ester | 6.02 mmol, 1000 mg | COC(C(C1=C(C=CC=C1)O)C)=O | C10H12O3
reactant | heptanoyl chloride | 6.02 mmol, 900 mg | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | aluminium chloride | 12.0 mmol, 1.6 g, 2 equiv | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | nitrobenzene | 10 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 5-heptanoylbenzofuran | 129 mg | C(CCCCCC)(=O)C=1C=CC2=C(C=CO2)C1 | C15H18O2
